US08283495B2
3 mg (4.7 μmol) of the catalyst from example Ala are dissolved in 1 ml of a mixture of formic acid and triethylamine (5:2 v/v) and stirred for 20 min. A solution of 350 mg (1.141 mmol) of racemic N-benzyl-(2-methyl-3,4-dihydro-2H-naphth-1-ylidene)amine in 1.7 ml of dichloromethane is then added and the mixture is stirred at room temperature for 5 days. After removal of the solvent, the dissolution in 5 ml of methanol, treatment with approx. 200 mg of potassium hydroxide and admixing with 10 ml of water at room temperature, extraction is effected three times with in each case 15 ml of dichloromethane and the organic phase is dried over sodium sulfate. After removal of the solvent and column chromatography (20:1 hexane/ethyl acetate), 229 mg (65% yield) of (1S,2S)-N-benzyl-(2-methyl-1,2,3,4-tetrahydronaphth-1-yl)amine are obtained as a light yellow oil.

reactant | Ala | N[C@@H](C)C(=O)O | C3H7NO2
reactant | formic acid | C(=O)O | CH2O2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | racemic N-benzyl-(2-methyl-3,4-dihydro-2H-naphth-1-ylidene)amine | 1.141 mmol, 350 mg | C(C1=CC=CC=C1)N=C1C(CCC2=CC=CC=C12)C | C18H19N
solvent | dichloromethane | 1.7 ml | ClCCl | CH2Cl2
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | (1S,2S)-N-benzyl-(2-methyl-1,2,3,4-tetrahydronaphth-1-yl)amine | 229 mg, 65% yield | C(C1=CC=CC=C1)N[C@H]1[C@H](CCC2=CC=CC=C12)C | C18H21N
